US04244967
1-[3-cyano-4-(3-tert.butyl-ureido)-phenyl]-2-tert.butylaminoethanol
The 4'-(3-tert.butylureido)-2-bromo-3'-cyano-acetophenone used as starting material was prepared by reaction of 4'-phenoxycarbonylamino-2-bromo-3'-cyano-acetophenone and tert.butylamine at room temperature.

reactant | 4'-(3-tert.butylureido)-2-bromo-3'-cyano-acetophenone | C(C)(C)(C)NC(NC1=C(C=C(C=C1)C(CBr)=O)C#N)=O | C14H16BrN3O2
reactant | 4'-phenoxycarbonylamino-2-bromo-3'-cyano-acetophenone | O(C1=CC=CC=C1)C(=O)NC1=C(C=C(C=C1)C(CBr)=O)C#N | C16H11BrN2O3
reactant | tert.butylamine | C(C)(C)(C)N | C4H11N
product | 1-[3-cyano-4-(3-tert.butyl-ureido)-phenyl]-2-tert.butylaminoethanol | C(#N)C=1C=C(C=CC1NC(=O)NC(C)(C)C)C(CNC(C)(C)C)O | C18H28N4O2
